Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
right lower quadrant pain
 
Major Surgical or Invasive Procedure:
Laparoscopic ovarian cystectomy

 
History of Present Illness:
___ yo G2P2 presents to ED with RLQ pain.  Started acutely
yesterday morning and has been intermittent throughout.  Became
severe again today.  Some mild nausea, no emesis or fevers.  No
bowel or bladder complaints.
 
Past Medical History:
Ob/gyn hx:
- SVD x2, no comps
- previously on OCPs, no contraception currently
- menses q month, LMP 5 weeks prior
- denies hx STDs, cysts, fibroids
- remote hx LEEP age ___

PMHx: denies
PSHx: LEEP, ankle surgery
Meds: PNV
All: NKDA

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On admission:
O: temp 98.2 HR 93 130/60 RR 18 100% RA
NAD, appears well overall but uncomfortable with movement
RRR
CTAB
abd soft, nondistended.  diffusely TTP with guarding, min 
rebound
pelvic: no abnl discharge or blood in vault
BME: min CMT, right adnexa very TTP, unable to appreciate cyst

On day of discharge:
afebrile, vital signs stable
Gen: NAD
Pulm: normal work of breathing
Abd: soft, nondistended, appropriate TTP, no rebound or guarding
 
Pertinent Results:
___ 09:55PM   WBC-8.5 RBC-3.43* HGB-9.8* HCT-28.1* MCV-82 
MCH-28.6 MCHC-34.9 RDW-12.3
___ 09:55PM   PLT COUNT-176
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecology service for serial 
abdominal exams and pain control and underwent a laparoscopic 
right ovarian cystectomy for a ruptured hemorrhagic cyst with 
hemoperitoneum. Her postoperative course was uncomplicated and 
on post-operative day 0 she was tolerating a regular diet, 
voiding spontaneously, ambulating independently and her pain was 
well controlled. She was discharged home in good condition with 
outpatient followup. 
 
Medications on Admission:
pnv
 
Discharge Medications:
1. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*45 Tablet Refills:*1
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
3. HYDROmorphone (Dilaudid) 2 mg PO q 6 hours prn pain Duration: 
1 Dose 
RX *hydromorphone 2 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hemorrhagic cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* No heavy lifting of objects >10 lbs for 2 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___